US06075021
(±)-6-Fluoro-N,N,9-trimethyl-1-oxo-2-(phenylmethyl)-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-4-carboxamide
A solution of 4 g (11 mmol) of (±)-6-fluoro-9-methyl-1-oxo-2-(phenylmethyl)-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-4-carboxylic acid and 2.2 g (30 mmol) of 1,1'-carbonyldiimidazole in 200 ml of tetrahydrofuran is heated at 40° C. for 2 h. The reaction mixture is cooled and a large excess of liquefied dimethylamine is added and the mixture is allowed to stir for a few hours.

reactant | (±)-6-fluoro-9-methyl-1-oxo-2-(phenylmethyl)-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-4-carboxylic acid | 11 mmol, 4 g | FC=1C=C2C3=C(N(C2=CC1)C)C(N(CC3C(=O)O)CC3=CC=CC=C3)=O | C20H17FN2O3
reactant | 1,1'-carbonyldiimidazole | 30 mmol, 2.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | (±)-6-Fluoro-N,N,9-trimethyl-1-oxo-2-(phenylmethyl)-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-4-carboxamide | FC=1C=C2C3=C(N(C2=CC1)C)C(N(CC3C(=O)N(C)C)CC3=CC=CC=C3)=O | C22H22FN3O2
